US07091220B2
[(4-Fluoro-phenyl)-(4-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 4-methyl-1H-indole and (4-fluoro-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 4-fluoro-benzaldehyde and dimethylamine.

reactant | 4-methyl-1H-indole | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | (4-fluoro-benzylidene)-dimethylammonium chloride | [Cl-].FC1=CC=C(C=[N+](C)C)C=C1
reactant | 4-fluoro-benzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | dimethylamine | CNC | C2H7N
product | [(4-Fluoro-phenyl)-(4-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine | FC1=CC=C(C=C1)C(C1=CNC2=CC=CC(=C12)C)N(C)C | C18H19FN2
